US04749791
11.07 g of 5-chloro-2-tetralone were boiled at reflux for 2 hours in 200 ml of benzene and 10.1 ml of pyrrolidine in the presence of 0.3 g of p-toluenesulphonic acid. The crude 1-(5-chloro-3,4-dihydro-2-naphthyl)pyrrolidine obtained was treated, without purification, with 9.0 g of acrylamide and 0.5 g of p-toluenesulphonic acid. The mixture was heated under nitrogen to 100° for 2 hours and to 150° for 2 hours. 250 ml of ethyl acetate and 50 ml of water were added to the reaction mixture, whereupon the insoluble constituents were filtered off, washed with ethyl acetate and water, dried and recrystallized from ethyl acetate. There was obtained 7-chloro-1,2,5,6-tetrahydrobenzo[f]quinolin-3(4H)-one of melting point 252°-253°.

reactant | 5-chloro-2-tetralone | 11.07 g | ClC1=C2CCC(CC2=CC=C1)=O | C10H9ClO
reactant | pyrrolidine | 10.1 ml | N1CCCC1 | C4H9N
reactant | p-toluenesulphonic acid | 0.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | acrylamide | 9.0 g | C(C=C)(=O)N | C3H5NO
reactant | p-toluenesulphonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | water | 50 ml | O | H2O
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 7-chloro-1,2,5,6-tetrahydrobenzo[f]quinolin-3(4H)-one | ClC1=CC=CC=2C=3CCC(NC3CCC21)=O | C13H12ClNO
